US08044052B2
tert-Butyl 4-(3-methyl-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate
To a solution of 3-methyl-5-(5-(trifluoromethyl)pyridin-2-yloxy)phenylboronic acid (2.16 g, 0.007 mol) and tert-butyl 4-(bromomethylene)piperidine-1-carboxylate (1.67 g, 0.006 mol) in THF (20 mL) was added K3PO4 (4.48 g, 0.02 mol). The flask was put under vacuum and flushed with N2 three times. Water (0.36 mL) was added and the system was flushed with N2 again. PdCl2(dppf) (571 mg, 0.0007 mol) was added and the system was flushed with N2 two to three times again. The reaction mixture was refluxed at 50° C. for 1 h. The reaction mixture was concentrated, diluted with water and extracted with EtOAc. The organic extract was washed with brine, dried over Na2SO4 and concentrated under reduced pressure, The residue was purified by column chromatography (2.5% EtOAc-97.5% Hexane) to give the pure title compound (0.50 g). 1H NMR (500 MHz, CDCl3): δ 8.45 (s, 1H), 7.90 (dd, J=2.07 Hz, J=0.025 Hz, 1H), 7.00 (d, J=8.6 Hz, 1H), 6.90 (s, 1H), 6.81 (d, J=18.5 Hz, 2H), 6.31 (s, 1H), 3.50 (t, J=5.25 Hz, 2H), 3.40 (t, J=5.3 Hz, 2H), 2.47 (t, J=5 Hz, 2H), 2.36 (s, 3H), 2.31 (s, 2H), 1.47 (s, 9H).

reactant | 3-methyl-5-(5-(trifluoromethyl)pyridin-2-yloxy)phenylboronic acid | 0.007 mol, 2.16 g | CC=1C=C(C=C(C1)OC1=NC=C(C=C1)C(F)(F)F)B(O)O | C13H11BF3NO3
reactant | tert-butyl 4-(bromomethylene)piperidine-1-carboxylate | 0.006 mol, 1.67 g | BrC=C1CCN(CC1)C(=O)OC(C)(C)C | C11H18BrNO2
reactant | K3PO4 | 0.02 mol, 4.48 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.0007 mol, 571 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 4-(3-methyl-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 0.50 g | CC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=C(C1)OC1=NC=C(C=C1)C(F)(F)F | C24H27F3N2O3
